US07615562B2
[4-(6-Fluoro-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared as described in Example 215, starting from 1-(tert-butyl-dimethyl-silanyl)-6-fluoro-1H-indole (prepared by TBDMS protection of 6-fluoro-1H-indole) and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by in situ cleavage of the TBDMS protecting group with catalytic amounts of TBAF. Yield: 1.04 g (63%).

reactant | 1-(tert-butyl-dimethyl-silanyl)-6-fluoro-1H-indole | C(C)(C)(C)[Si](N1C=CC2=CC=C(C=C12)F)(C)C | C14H20FNSi
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | [4-(6-Fluoro-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | FC1=CC=C2C(=CNC2=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C21H26FN5
